tb_noise_breakdown.cir - which devices actually make the noise (E5)
* Single-frequency noise summary at 1 kHz so ngspice prints the per-device
* contribution table, plus the integrated 20 Hz - 20 kHz totals for the four
* configurations that matter.
* REMINDER: placeholder_devices.lib has KF = 0 everywhere. There is NO 1/f
* noise in any of this. These are thermal + shot noise only, i.e. a FLOOR.

.include @REPO@/spice/preamp/placeholder_devices.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VSRC SRCN 0 DC 0 AC 1
RSRC SRCN IN 430

CSTRAY RG 0 15p
RRG    RG 0 1G

RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k

.control
echo "===== per-device noise contributions at 1 kHz, 0 dB mode, Rsrc=430 ====="
noise v(JACK) VSRC lin 2 1000 1001 1
destroy all

echo "===== integrated totals, 20 Hz - 20 kHz ====="
foreach cfg 1 2 3 4
  if $cfg = 1
    alter rrg = 1G
    alter rsrc = 1
    echo "A) 0 dB, source 1 ohm      (block A intrinsic)"
  end
  if $cfg = 2
    alter rrg = 1G
    alter rsrc = 430
    echo "B) 0 dB, source 430 ohm    (block A on the tube phono)"
  end
  if $cfg = 3
    alter rrg = 1G
    alter rsrc = 2500
    echo "C) 0 dB, source 2500 ohm   (block B, attenuator mid-rotation)"
  end
  if $cfg = 4
    alter rrg = 0.1
    alter rsrc = 2500
    echo "D) +10 dB, source 2500 ohm (block B worst case)"
  end
  noise v(JACK) VSRC dec 100 20 20000 1
  setplot noise2
  print onoise_total inoise_total
  destroy all
end
.endc

.end
